US07728010B2
Step 1. Synthesis of 4-[2-(4-Fluoro-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid tert-butyl ester
A round bottom flask was charged with 4-fluorophenylisothiocyanate (1 eq), 4-(3-Amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid tert-butyl ester (1 eq), and MeOH. The reaction was maintained stirring at room temperature overnight. Ferric chloride, (1.5 eq) was added and the resulting mixture was stirred overnight. The reaction was partitioned with EtOAc and water, and filtered through Celite. The layers were separated and the aqueous phase was neutralized with saturated Na2CO3 solution. The resulting aqueous phase was extracted with EtOAc and the mixture was filtered through Celite. The phases were separated and the aqueous phase was again extracted and filtered. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to give a brown solid. The crude residue was purified by trituration in hot toluene to furnish the desired product. LCMS m/z 435.6 (MH+), tR=2.12 min.

reactant | 4-fluorophenylisothiocyanate | 1 eq | FC1=CC=C(C=C1)N=C=S | C7H4FNS
reactant | 4-(3-Amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid tert-butyl ester | 1 eq | C(C)(C)(C)OC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)N | C17H21N3O3
solvent | MeOH | CO | CH4O
product | 4-[2-(4-Fluoro-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)NC2=CC=C(C=C2)F)C)C=C1 | C24H23FN4O3
